US06448397B1
2-Chloroethyl (1R)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl Ether
To a mixture of (1R)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (3.67 g, 12.19 mmol) in DMF (90 mL) is added potassium carbonate (8.4 g, 60.9 mmol) and 1-bromo-2-chloroethane (5.0 mL, 60.9 mmol). The mixture is heated to 85° C. for 24 h. The temperature is then increased to 95° C. and heated for 4 h. Mechanical stirring is employed and the reaction heated an additional 1.5 h. The mixture is then partitioned between water and Et2O. The layers are separated and the organic layer washed with water (100 mL). The organic layer is dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography with silica gel using hexane/CH2Cl2 (60/40) gave 2.4 g (54%) of the title compound.

reactant | (1R)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 12.19 mmol, 3.67 g | C1(=CC=CC=C1)[C@@H]1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | potassium carbonate | 60.9 mmol, 8.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 60.9 mmol, 5.0 mL | BrCCCl | C2H4BrCl
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | 2-Chloroethyl (1R)-1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl Ether | 2.4 g, 54% | C1(=CC=CC=C1)[C@@H]1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCCl | C22H18ClNO2
